US08859773B2
Step 3: 1-ethyl 6-methyl 3-methoxy-1H-indazole-1,6-dicarboxylate
1-Ethyl 6-methyl 3-hydroxy-1H-indazole-1,6-dicarboxylate (1.35 g, 5.11 mmol) was suspended in acetone (65 mL). Cesium carbonate (1.75 g, 5.36 mmol) and methyl iodide (1.0 mL, 15 mmol) were added and the reaction was heated to reflux for 23 hours. The reaction was concentrated to dryness. The residue was taken up in dichloromethane (100 mL) and water (100 mL). The layers were separated and the aqueous was extracted again with dichloromethane. The combined organics were dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography gave two regioisomeric products.

reactant | 1-Ethyl 6-methyl 3-hydroxy-1H-indazole-1,6-dicarboxylate | 5.11 mmol, 1.35 g | OC1=NN(C2=CC(=CC=C12)C(=O)OC)C(=O)OCC | C12H12N2O5
reactant | Cesium carbonate | 5.36 mmol, 1.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 15 mmol, 1.0 mL | CI | CH3I
solvent | acetone | 65 mL | CC(=O)C | C3H6O
product | 1-ethyl 6-methyl 3-methoxy-1H-indazole-1,6-dicarboxylate | COC1=NN(C2=CC(=CC=C12)C(=O)OC)C(=O)OCC | C13H14N2O5
